US06034239
N-[2-(1,6,7,8-tetrahydro-2H-furo[3,2-e]indol-8-yl)ethyl]propionamide
To a solution of N-[2-(6-formyl-1,6,7,8-tetrahydro-2H-furo[3,2-e]indol-8-yl)ethyl]propionamide (0.18 g, 0.62 mmol.) in ethanol (5 mL) was added saturated hydrogen chloride/ethanol (15 mL). The mixture was stirred for 1.5 hours at 80° C. and then cooled. The solvent was removed in vacuo to afford the title compound as an amorphous product.

reactant | N-[2-(6-formyl-1,6,7,8-tetrahydro-2H-furo[3,2-e]indol-8-yl)ethyl]propionamide | 0.62 mmol, 0.18 g | C(=O)N1CC(C2=C3C(=CC=C12)OCC3)CCNC(CC)=O | C16H20N2O3
reactant | hydrogen chloride ethanol | 15 mL | Cl.C(C)O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-[2-(1,6,7,8-tetrahydro-2H-furo[3,2-e]indol-8-yl)ethyl]propionamide | C1COC=2C1=C1C(CNC1=CC2)CCNC(CC)=O | C15H20N2O2
